### PR TITLE
[Merged by Bors] - feat(Algebra/MvPolynomial): add `comp` versions of rename lemmas

### PR DESCRIPTION
**Pull request by chrisflav**
Also unapply `MvPolynomial.rename_id`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Rename.lean [hunk 1]
```diff
@@ -64,6 +64,11 @@ theorem map_rename (f : R →+* S) (g : σ → τ) (p : MvPolynomial σ R) :
     (fun p q hp hq => by simp only [hp, hq, map_add]) fun p n hp => by
     simp only [hp, rename_X, map_X, map_mul]
 
+lemma map_comp_rename (f : R →+* S) (g : σ → τ) :
+    (map f).comp (rename g).toRingHom = (rename g).toRingHom.comp (map f) := by
+  apply RingHom.ext
+  simp [map_rename]
```
Comment (eric-wieser) [inline Mathlib/Algebra/MvPolynomial/Rename.lean:70]: This type of proof I'd be tempted to golf into term mode, as something like `RingHom.ext fun _ => map_rename _ _ _`. Similar below.

Comment (chrisflav) [reply Mathlib/Algebra/MvPolynomial/Rename.lean]: While I find these `ext; simp` proofs good tests for the `simp` set, I won't insist.

File: Mathlib/Algebra/MvPolynomial/Rename.lean [hunk 2]
```diff
@@ -76,9 +80,13 @@ theorem rename_rename (f : σ → τ) (g : τ → α) (p : MvPolynomial σ R) :
...
 
+lemma rename_comp_rename (f : σ → τ) (g : τ → α) :
+    (rename (R := R) g).comp (rename f) = rename (g ∘ f) :=
+  AlgHom.ext fun p ↦ rename_rename f g p
+
 @[simp]
-theorem rename_id (p : MvPolynomial σ R) : rename id p = p :=
-  eval₂_eta p
+theorem rename_id : rename id = AlgHom.id R (MvPolynomial σ R) :=
+  AlgHom.ext fun p ↦ eval₂_eta p
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/MvPolynomial/Rename.lean:89]: I think we might want the applied version as well, looking at the change in `Mathlib/RingTheory/MvPolynomial/Symmetric/Defs.lean`

Comment (chrisflav) [reply Mathlib/Algebra/MvPolynomial/Rename.lean:89]: I don't find the change in `MvPolynomial/Symmetric/Defs` is very convincing, the applied version is just a combination of three lemmas. But for rewriting backwards, I can imagine there is a use case.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
